US05278333
a) Monomethylation of methyl (6-methoxy-2-naphthyl)acetate
Alternatively, the reaction for the selective methylation can be carried out by reacting a mixture of (6-methoxy-2-naphthyl)acetic acid, dimethyl carbonate and K2CO3, in the 1:20:2 molar ratio, in autoclave at a temperature of 220° C. The reaction is completed within about 8 hours. (In this case DMC acts first as a methylating agent for the carboxylic group, through an already known reaction; then the monomethylation reaction takes place on the resulting ester).

reactant | (6-methoxy-2-naphthyl)acetic acid | COC=1C=C2C=CC(=CC2=CC1)CC(=O)O | C13H12O3
reactant | dimethyl carbonate | C(OC)(OC)=O | C3H6O3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | methyl (6-methoxy-2-naphthyl)acetate | COC=1C=C2C=CC(=CC2=CC1)CC(=O)OC | C14H14O3
